Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Dilaudid / bupropion / tramadol / Penicillins
 
Attending: ___.
 
Chief Complaint:
Small Bowel Obstruction
Vaginal Melanoma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo G6P4 with stage IIC vaginal melanoma s/p 4 cycles of 
nivolumab (C4D1 ___, currently receiving pelvic radiation 
therapy who was admitted to ___ with N/V, 
abdominal pain. 

At ___, she underwent a CT scan which, per verbal report, 
demonstrated a transition point in her ___ hernia 
sac. She declined NGT placement. She has been managed 
conservatively with bowel rest with recent advancement to clear 
fluids. 

Of note, she is due to have interstitial implant placement on 
___.

She reports that she is now tolerating small sips, but feels 
that if she advanced to larger volumes she would begin to feel 
nauseous, so she is self-limiting to sips.

Denies chest pain, SOB, abdominal pain, diarrhea.

Last passed flatus in the afternoon on ___.

ROS: as per HPI, otherwise negative

Onc History:
- presented w/ postmenopausal bleeding -> pelvic exam notable 
for blackened area near introitus with polypoid structures at 
9:00 and some periurethral hyperpigmentation. Two vaginal 
biopsies taken (___) pathology c/w malignant melanoma 
- PET CT scan (___) showed a focus of FDG avidity in the 
right aspect of the vagina/vulva likely representing known 
vulvovaginal melanoma. Additionally, there was a right level II 
lymph node and a right intra parotid lymph node that were not 
pathologically enlarged by CT criteria though demonstrate mild
FDG avidity, likely reactive.
- Pelvic MRI (___) showed 1.5 cm nodular mass along the 
right lateral wall of the lower vagina/vulva without evidence of 
locally invasive disease. There was no pelvic or inguinal 
lymphadenopathy.
- ___: C1D1 nivolumab
- ___: C2D1 nivolumab
- ___: C3D1 nivolumab
- ___: C4D1 nivolumab
- ___: pelvic radiation
 
Past Medical History:
Fibromyalgia.
Cervical radiculopathy and moderate-to-severe stenosis.
___ esophagus.
Hyperlipidemia.
Sleep apnea.
History of diverticulitis.
Tobacco use.  She is trying to cut down.
Osteoarthritis of the hands.
Right trochanteric bursitis.

 
Social History:
___
Family History:
Unremarkable
 
Physical Exam:
General: NAD, comfortable
CV: RRR
Lungs: mild end expiratory wheezes stable from prior exams.
Abdomen: +bowel sounds, soft, non distended, non tender to
palpation. Two hernias: one in the lower mid-abdomen, one
periumbilical.
Extremities: no edema, no TTP, pneumoboots in place bilaterally
 
Pertinent Results:
___ 06:26AM BLOOD WBC-3.2* RBC-3.54* Hgb-10.9* Hct-32.6* 
MCV-92 MCH-30.8 MCHC-33.4 RDW-16.1* RDWSD-54.4* Plt ___
___ 06:05AM BLOOD WBC-5.2 RBC-4.12 Hgb-12.7 Hct-37.8 MCV-92 
MCH-30.8 MCHC-33.6 RDW-15.7* RDWSD-52.4* Plt ___
___ 06:10AM BLOOD WBC-5.3 RBC-3.81* Hgb-11.9 Hct-35.8 
MCV-94 MCH-31.2 MCHC-33.2 RDW-15.8* RDWSD-54.1* Plt ___
___ 08:40AM BLOOD WBC-5.7 RBC-3.98 Hgb-12.0 Hct-36.5 MCV-92 
MCH-30.2 MCHC-32.9 RDW-15.2 RDWSD-51.2* Plt ___
___ 06:05AM BLOOD WBC-4.9 RBC-3.56* Hgb-10.9* Hct-33.2* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-15.5 RDWSD-53.2* Plt ___
___ 06:00PM BLOOD WBC-5.5 RBC-3.78* Hgb-11.6 Hct-34.8 
MCV-92 MCH-30.7 MCHC-33.3 RDW-15.2 RDWSD-51.7* Plt ___
___ 06:20AM BLOOD WBC-3.5* RBC-3.79* Hgb-11.5 Hct-35.1 
MCV-93 MCH-30.3 MCHC-32.8 RDW-15.1 RDWSD-51.8* Plt ___
___ 07:10AM BLOOD WBC-6.0 RBC-4.16 Hgb-12.8 Hct-37.8 MCV-91 
MCH-30.8 MCHC-33.9 RDW-15.4 RDWSD-51.0* Plt ___
___ 09:40PM BLOOD WBC-6.4 RBC-4.52 Hgb-13.8 Hct-41.6 MCV-92 
MCH-30.5 MCHC-33.2 RDW-15.5 RDWSD-51.8* Plt ___
___ 06:26AM BLOOD Glucose-108* UreaN-1* Creat-0.4 Na-141 
K-3.2* Cl-108 HCO3-23 AnGap-10
___ 06:05AM BLOOD Glucose-109* UreaN-1* Creat-0.4 Na-140 
K-3.6 Cl-105 HCO3-17* AnGap-18
___ 06:10AM BLOOD Glucose-50* UreaN-2* Creat-0.5 Na-141 
K-4.7 Cl-107 HCO3-18* AnGap-16
___ 08:40AM BLOOD Glucose-54* UreaN-3* Creat-0.5 Na-140 
K-3.4* Cl-101 HCO3-22 AnGap-17
___ 06:05AM BLOOD Glucose-53* UreaN-7 Creat-0.5 Na-137 
K-3.8 Cl-101 HCO3-24 AnGap-12
___ 06:00PM BLOOD Glucose-63* UreaN-10 Creat-0.5 Na-136 
K-3.9 Cl-98 HCO3-22 AnGap-16
___ 06:20AM BLOOD Glucose-77 UreaN-12 Creat-0.5 Na-137 
K-4.3 Cl-99 HCO3-25 AnGap-13
___ 07:10AM BLOOD Glucose-89 UreaN-21* Creat-0.5 Na-136 
K-3.5 Cl-97 HCO3-28 AnGap-11
___ 09:40PM BLOOD Glucose-90 UreaN-23* Creat-0.6 Na-137 
K-4.5 Cl-98 HCO3-26 AnGap-13
 
Brief Hospital Course:
Ms. ___ was admitted to the gyn/onc service as a transfer 
from ___ with a small bowel obstruction and plan for 
interstitial implant on ___. Prior to her transfer, patient 
spent two nights at ___ for her ___ where she was managed 
conservatively with NPO status and IV fluids.

Upon arrival to the floor, patient had no nausea or vomiting. 
She was tolerating clears and had a benign exam.

Regarding her small bowel obstruction:

Patient was continued on clears on ___. However, she started 
feeling nauseous throughout the day. Overnight she had an 
episode of emesis. Exam at the time was notable for a soft, 
mildly distended abdomen with one  right inferior hernia and one 
periumbilical hernia that was mildly tender to palpation. She 
was thus switched to NPO.

On ___ (HD#3), given continued nausea, a CT abdomen and pelvis 
was obtained. This demonstrated two transition points within the 
inferior ventral hernia defect, con concerning for a closed loop 
obstruction.  There was additional loculated fluid along the 
mesentery within the hernia concerning for bowel ischemia, noted 
to be suboptimally evaluated on noncontrast CT. Given these 
findings, an  NGT was placed for bowel rest/decompression. 
Further work up for question of bowel ischemia on imaging was 
deferred as her abdominal exam was stable and her vital signs 
were stable.  She continued to be managed conservatively and 
began passing  flatus and having dropped NGT output on ___ 
(HD#6). On ___, she had decreased NGT output and minimal 
residual  after a clamp trial. Thus her NGT was removed and her 
diet was slowly advanced on ___ (HD#7). That day, she was seen 
by acute care surgery  (ACS) who determined that the patient was 
not currently a surgical candidate but that she may follow up 
with ACS as an outpatient. She also had multiple episodes of 
diarrhea and one well formed stool later that afternoon. On 
___, she was tolerating a regular diet. Sh e continued to pass 
flatus and had a normal  abdominal exam with stable vitals. She  
was discharged home in stable condition with plan for close 
follow up with interstitial implants.

Regarding her tachycardia:
During her hospital stay, patient was triggered on ___ for 
tachycardia in the 150s while the patient was sleeping. She was 
asymptomatic at the time. An EKG demonstrated atrioventricular 
normal sinus tachycardia. For this patient was treated with 
adenosine. Cardiology was contacted who suggested obtaining an 
echo to assess for structural causes of tachycardia. Lytes, 
lactate, TSH were within normal limits at the time (___). The 
echo on ___ was normal, showing some mild pulmonary 
hypertension. Throughout her hospital stay, patient was noted to 
have non sustained tachycardia with stable O2 saturation, BPs.  
Patient was told to follow up in four weeks with outpatient 
cardiology per  ___ cardiology recommendation. 

Regarding her home medications:. Throughout her hospital stay, 
Ms ___ was prescribed for her home medications, which 
include asthma inhalers. medication for asthma, as well as 
medications for hyperlipedemia and hypertension. 

 
Medications on Admission:
- Calcium + Vitamin D
- Lamotrigine
- Atorvastatin
- Albuterol sulfate, tiotropium bromide, budesonide-formoterol
- Aspirin, doxepin
- Escitalopram oxalate
- Furosemide
- Hydrocodone-acetaminophen, hydromorphone
- Prochlorperazine maleate
- Sennosides
- Topiramate

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 4000mg in a day 
RX *acetaminophen 500 mg 1 tablet(s) by mouth Q6H PRN Disp #*50 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*1 
3.  Senna 17.2 mg PO BID bowel prep 
Please start this bowel regimen on ___.  
RX *sennosides [senna] 8.6 mg 2 tablet by mouth twice a day Disp 
#*8 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the gynecology oncology service for a small 
bowel obstruction. You were conservatively managed.  You were 
made NPO (nothing by mouth) and started on IV fluids.  An NG 
tube was placed for decompression of the stomach.  Your nausea 
was treated with antiemetics.  Labs were done which showed no 
signs of systemic infection.  You were afebrile with stable 
vital signs and monitored closely for resolution of symptoms. 
When signs of return of bowel function were present your diet 
was advanced without incident and you are discharged home on a 
low residual diet. Your home medications were continued. You 
have recovered well and the team now feels it is safe for you to 
be discharged home.  Please follow these instructions:

POST BOWEL OBSTRUCTION CARE:
* Take your medications as prescribed.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* Please continue on your low residual diet until ___.
* You were also seen by Dr. ___ your small bowel 
obstruction. At this time, the recommendation is to not proceed 
with surgery. However, if you have ongoing symptoms and wanted 
to further discuss operative intervention, you may call Dr. 
___ at ___ for an appointment.

INTERSTITIAL BRACHYTHERAPY PLAN:
* You are scheduled for interstitial brachytherapy treatment on 
___ with Dr. ___. Please arrive at 8:00 am 
for your procedure (which is planned for 9:30am). 
* Please start your bowel regimen (2 Senna morning and night) on 
___.
* Do not eat or drink anything after midnight on ___. 

CARDIAC HEALTH
* While in the hospital, you were noted to have a prolonged 
episode of supraventricular tachycardia. While in the hospital 
you received a one time dose of adenosine with good effect.
* You will need to follow up with cardiology in ___ in 4 to 
5 weeks. They will call you with an appointment time in the next 
few days. If you do not hear from the cardiology office, please 
call at ___ to schedule an appointment. 

Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___